US04147863
In 40 ml of water were dissolved 416 mg of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylic acid and 660 mg of sodium hydrogencarbonate. To the solution was added 10 ml of acetone and further added dropwise with stirring at 0°-5° C., 20 ml of an acetone solution containing 323 mg of 2-thienylacetyl chloride. The mixture was stirred for 30 minutes under ice-cooling and for additional 3 hours at room temperature. The acetone was distilled off at room temperature under reduced pressure. The residual solution was washed with ether, adjusted to pH 2.0 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with an aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The ethyl acetate was removed under reduced pressure, and, upon washing the residue with ether, there was obtained 590 mg of 7-(2-thienylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylic acid.

reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylic acid | 416 mg | NC1[C@@H]2N(C(=C(CS2)C=CC2=NN=NN2C)C(=O)O)C1=O | C11H12N6O3S
reactant | sodium hydrogencarbonate | 660 mg | C(O)([O-])=O.[Na+]
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | 2-thienylacetyl chloride | 323 mg | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | water | 40 ml | O | H2O
product | 7-(2-thienylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylic acid | 590 mg | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=NN=NN2C)C(=O)O)C1=O | C17H16N6O4S2
